US06656946B2
4-[(3-Bromo-phenyl)amino]-6-[2-((S)-6-methyl-2-oxo-morpholin-4-yl)-ethoxy]-7-methoxy-quinazoline
90 μl of methanesulphonic acid are added to 380 mg of 4-[(3-bromo-phenyl)amino]-6-(2-{N-[(tert.butyloxycarbonyl)methyl]-N-((S)-2-hydroxy-propyl)-amino}-ethoxy)-7-methoxy-quinazoline in 8 ml of acetonitrile. The reaction mixture is refluxed for about three hours, then another equivalent of methanesulphonic acid is added and refluxing is continued until the reaction is complete. For working up the reaction mixture is diluted with ethyl acetate and washed with saturated sodium hydrogen carbonate solution and saturated sodium chloride solution. The organic phase is dried over magnesium sulphate and evaporated down in vacuo. The flask residue is stirred with diethylether and suction filtered. The title compound is obtained as a white solid.

reactant | methanesulphonic acid | 90 μl | CS(=O)(=O)O | CH4O3S
reactant | 4-[(3-bromo-phenyl)amino]-6-(2-{N-[(tert.butyloxycarbonyl)methyl]-N-((S)-2-hydroxy-propyl)-amino}-ethoxy)-7-methoxy-quinazoline | 380 mg | BrC=1C=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)OCCN(C[C@H](C)O)CC(=O)OC(C)(C)C)OC | C26H33BrN4O5
solvent | acetonitrile | 8 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[(3-Bromo-phenyl)amino]-6-[2-((S)-6-methyl-2-oxo-morpholin-4-yl)-ethoxy]-7-methoxy-quinazoline | BrC=1C=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)OCCN1CC(O[C@H](C1)C)=O)OC | C22H23BrN4O4
